US08168794B2
To a solution of (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)piperidine-1-carboxylate (1 eq) in 30 mL of THF was added 5.2 mL of TBAF (1.2 eq). The reaction mixture was stirred at room temperature for 2 hours. The mixture was diluted with ethyl acetate, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (5% methanol in EtOAc:hexanes=1:1) to yield (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-hydroxypiperidine-1-carboxylate (100%). LC/MS (m/z): 251.2 (MH+), Rt: 0.89. HPLC: Rt: 3.26 min.

reactant | (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)piperidine-1-carboxylate | 1 eq | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H40N2O5Si
reactant | TBAF | 5.2 mL, 1.2 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-hydroxypiperidine-1-carboxylate | 100% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
